US04267175
A solution of N-(3-methyl-butyl)-N'-nitrosopiperazine (3 g.) in anhydrous tetrahydrofuran (30 ml). was added dropwise to a stirred suspension of lithium aluminium hydride (0.65 g.) in anhydrous tetrahydrofuran (100 ml.) under nitrogen at 50°. After 30 minutes, the mixture was cooled and worked up in the usual manner to give crude N-(3-methylbutyl)-N'-amino-piperazine (2.5 g.) used without purification in the next step.

reactant | N-(3-methyl-butyl)-N'-nitrosopiperazine | 3 g | CC(CCN1CCN(CC1)N=O)C | C9H19N3O
reactant | lithium aluminium hydride | 0.65 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(3-methylbutyl)-N'-amino-piperazine | 2.5 g | CC(CCN1CCN(CC1)N)C | C9H21N3
